US05198446
Preparation of N-{[(4-chlorobenzyl)-dimethylsilyl]methyl}morpholine hydrochloride
A solution containing 11.15 g of (4-chlorobenzyl)chloromethyl-dimethylsilane and 10.9 g of morpholine in 40 ml of toluene is refluxed for 9 hours, then cooled down and washed 5 times with a total of 250 ml of water. The organic phase is dried over anhydrous magnesium sulfate, filtered and evaporated to solvent-free. The pale yellow oily residue is dissolved in 40 ml of acetone and acidified to pH 4.5 by adding ethereal hydrogen chloride solution. The named product is obtained as a crystalline precipitate in a yield of 12.1 g (76%), m.p.: 208°-210° C.

reactant | (4-chlorobenzyl)chloromethyl-dimethylsilane | 11.15 g | ClC1=CC=C(C[Si](C)(C)CCl)C=C1 | C10H14Cl2Si
reactant | morpholine | 10.9 g | N1CCOCC1 | C4H9NO
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | N-{[(4-chlorobenzyl)-dimethylsilyl]methyl}morpholine hydrochloride | Cl.ClC1=CC=C(C[Si](C)(C)CN2CCOCC2)C=C1 | InChI=1S/C14H22ClNOSi.ClH/c1-18(2,12-16-7-9-17-10-8-16)11-13-3-5-14(15)6-4-13;/h3-6H,7-12H2,1-2H3;1H
